US06972287B1
Step D: Preparation of 2-{4-[2-(3,4,5-Trihydroxyphenyl)-ethyl]phenylamino}-benzoic acid
The title compound was prepared from 2-{4-[2-(3,4,5-trimethoxy-phenyl)-ethyl]phenylamino}benzoic acid (0.50 g, 1.23 mmol) in CH2Cl2 (40 mL) and BBr3 (10 mL, 1M in CH2Cl2, 10.0 mmol) using the procedure described in Example 4, Step D. This procedure yielded a green solid, 0.25 g (0.68 mmol, 65%) of the desired product. mp: 160.0-162.0° C.

reactant | 2-{4-[2-(3,4,5-trimethoxy-phenyl)-ethyl]phenylamino}benzoic acid | 1.23 mmol, 0.50 g | COC=1C=C(C=C(C1OC)OC)CCC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C24H25NO5
reactant | BBr3 | 10.0 mmol, 1M, 10 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-{4-[2-(3,4,5-Trihydroxyphenyl)-ethyl]phenylamino}-benzoic acid | 0.68 mmol, 0.25 g, 65% | OC=1C=C(C=C(C1O)O)CCC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C21H19NO5
